US07696223B2
d) 2-Bromo-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
5-bromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester (390 mg, 0.767 mmol) was dissolved in tetrahydrofuran (5 mL) and then cooled with an acetone-dry ice bath. Potassium tert-butoxide in tetrahydrofuran (0.92 mL, 0.92 mmol, 1 M solution) was added; after addition, the reaction was stirred for 10 min at −78° C. The cold bath was removed and the reaction was stirred for another 30 min at room temperature (RT) before quenching with saturated ammonium chloride aqueous solution and extracting with ethyl acetate. The organic phase was subsequently washed with saturated sodium chloride aqueous solution, dried with anhydrous sodium sulfate, and filtered, concentrated to give an oil containing crude intermediate 2-bromo-4-oxo-1-phenyl-1,4,5,7-tetrahydro-pyrrolo[2,3-c]pyridine-5,6-dicarboxylic acid 6-tert-butyl ester 5-ethyl ester, which was then dissolved in dichloromethane (20 mL) at room temperature. Trifluoroacetic acid (5 mL) was added; the resulting reaction mixture was stirred overnight at room temperature before all solvents were removed. The residue was dissolved in dichloromethane and basified with triethylamine, then air was bubbled through the solution for 5 hours. The solvent was then removed, and the residue was purified with column to give the title compound. 1H NMR (200 MHz, CDCl3): δ (ppm)=11.52 (s, 1H), 8.06 (s, 1H), 7.65-7.28 (m, 5H), 7.02 (s, 1H), 4.52 (q, 2H, J=7.4 Hz), 1.48 (t, 3H, J=7.4 Hz).

reactant | 5-bromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 0.767 mmol, 390 mg | C(C)OC(=O)C1=C(N(C(=C1)Br)C1=CC=CC=C1)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C23H29BrN2O6
reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2-bromo-4-oxo-1-phenyl-1,4,5,7-tetrahydro-pyrrolo[2,3-c]pyridine-5,6-dicarboxylic acid 6-tert-butyl ester 5-ethyl ester | C(C)OC(=O)C1C(C2=C(CN1C(=O)OC(C)(C)C)N(C(=C2)Br)C2=CC=CC=C2)=O | C21H23BrN2O5
reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 0.92 mmol, 1 M, 0.92 mL | O1CCCC1 | C4H8O
product | 2-Bromo-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2)Br)C2=CC=CC=C2)O | C16H13BrN2O3
